**************************************************
* Manufacturer:          Würth Elektronik 
* Kinds:                 Energy Harvesting Coupled Inductor
* Matchcode:             WE-EHPI
* Library Type:          Pspice
* Version:               rev23a
* Created/modified by:   Ella
* Date and Time:         2/22/2023
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt EHPI_5838_74488540250_25u 1  2  3  4  PARAMS:
+  Cww=7.92p
+  Rp1=1.694k
+  Cp1=3.793n
+  Lp1=24.543u
+  Rp2=656.715k
+  Cp2=11.347p
+  Lp2=10.366m
+  RDC1=0.2
+  RDC2=42
+  K=0.97899964
C_C1 1 4 {Cww/2}
C_C2 2 3 {Cww/2}
C_C5 2 1 {Cp1}
R_R1 2 N05454 {RDC1}
R_R2 2 1 {Rp1}
L_L1 N05454 1 {Lp1}
L_L2 N05750 4 {Lp2}
C_C6 3 4 {Cp2}
R_R3 3 4 {Rp2}
R_R4 3 N05750 {RDC2}
R_R50 1 4 5000g
Kn_K1 L_L1 L_L2 {K}
.ends EHPI_5838_74488540250_25u
*******
.subckt EHPI_5838_74488540120_13u 1  2  3  4  PARAMS:
+  Cww=6.28p
+  Rp1=0.550k
+  Cp1=17n
+  Lp1=13.01u
+  Rp2=275.585k
+  Cp2=8.98p
+  Lp2=33.116m
+  RDC1=0.090
+  RDC2=135
+  K=0.97560561
C_C1 1 4 {Cww/2}
C_C2 2 3 {Cww/2}
C_C5 2 1 {Cp1}
R_R1 2 N05454 {RDC1}
R_R2 2 1 {Rp1}
L_L1 N05454 1 {Lp1}
L_L2 N05750 4 {Lp2}
C_C6 3 4 {Cp2}
R_R3 3 4 {Rp2}
R_R4 3 N05750 {RDC2}
R_R50 1 4 5000g
Kn_K1 L_L1 L_L2 {K}
.ends EHPI_5838_74488540120_13u
*******
.subckt EHPI_5838_74488540070_7u 1  2  3  4  PARAMS:
+  Cww=6.91p
+  Rp1=0.280k
+  Cp1=70n
+  Lp1=6.8u
+  Rp2=248.26k
+  Cp2=8.797p
+  Lp2=69.487m
+  RDC1=0.085
+  RDC2=205
+  K=0.96953597
C_C1 1 4 {Cww/2}
C_C2 2 3 {Cww/2}
C_C5 2 1 {Cp1}
R_R1 2 N05454 {RDC1}
R_R2 2 1 {Rp1}
L_L1 N05454 1 {Lp1}
L_L2 N05750 4 {Lp2}
C_C6 3 4 {Cp2}
R_R3 3 4 {Rp2}
R_R4 3 N05750 {RDC2}
R_R50 1 4 5000g
Kn_K1 L_L1 L_L2 {K}
.ends EHPI_5838_74488540070_7u
*******
