**************************************************
* Manufacturer:           Würth Elektronik 
* Kinds:                  Common Mode Power Line Choke 
* Matchcode:              WE-ExB 
* Library Type:           Pspice
* Version:                rev24a
* Created/modified by:    Ella      
* Date and Time:          2024-04-11
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt ExB_TypeL_744844101_100u 1 2 3 4
X1 1 2 3 4 ExB params:
+ dl3=0.0000001409405
+ dc3=0.0000000000000333
+ dl4=0.000000001351
+ dc4=0.00000000000143
+ dr3=0.48
+ dr4=2100
+ dr5=1.88
+ dr6=166
+ ck=8.4pF
+ L1=0.460098919891953E-05
+ L2=0.0000909908
+ L3=0.0000018
+ L4=0.000018
+ L5=0.0000018
+ C1=1.22922309E-12
+ C2=0.00000000002754
+ Rs1=590
+ Rs2=670
+ Rs3=703
+ Rs4=78
+ Rs5=109
+ R2=0.11
+ Rdc=6m
.ends ExB_TypeL_744844101_100u
******
.subckt ExB_TypeL_744844102_1m 1 2 3 4
X1 1 2 3 4 ExB params:
+ dl3=0.0000009960
+ dc3=0.0000000000000433
+ dl4=0.0000000165351
+ dc4=0.00000000000143
+ dr3=0.48
+ dr4=9700
+ dr5=1.88
+ dr6=766
+ ck=17.15pF
+ L1=0.0009410059538
+ L2=0.00002050035
+ L3=0.000000000847
+ L4=0.00000004222
+ L5=0.000089965
+ C1=0.00000000000717309
+ C2=0.0000000000059294
+ Rs1=10185
+ Rs2=8447
+ Rs3=5703
+ Rs4=5678
+ Rs5=7009
+ R2=0.11
+ Rdc=42m
.ends ExB_TypeL_744844102_1m
******
.subckt ExB_TypeL_744844221_220u 1 2 3 4
X1 1 2 3 4 ExB params:
+ dl3=0.00000026
+ dc3=0.0000000000000333
+ dl4=0.000000001351
+ dc4=0.00000000000143
+ dr3=0.48
+ dr4=3800
+ dr5=1.88
+ dr6=166
+ ck=12.4pF
+ L1=1.40000989198919E-05
+ L2=0.000228
+ L3=0.0000018
+ L4=0.000018
+ L5=0.0000018
+ C1=1.82922309E-12
+ C2=0.00000000002754
+ Rs1=1600
+ Rs2=1610
+ Rs3=703
+ Rs4=78
+ Rs5=109
+ R2=0.11
+ Rdc=9m
.ends ExB_TypeL_744844221_220u
******
.subckt ExB_TypeL_744844470_47u 1 2 3 4
X1 1 2 3 4 ExB params:
+ dl3=0.000000054541
+ dc3=0.0000000000000333
+ dl4=0.000000001351
+ dc4=0.00000000000143
+ dr3=0.48
+ dr4=1580
+ dr5=1.88
+ dr6=166
+ ck=7pF
+ L1=0.00000169198919538
+ L2=0.000045991035
+ L3=0.000000537
+ L4=0.0000000391634222
+ L5=0.000000004425
+ C1=0.000000000001522309
+ C2=0.00000000000154
+ Rs1=310
+ Rs2=410
+ Rs3=703
+ Rs4=78
+ Rs5=109
+ R2=0.11
+ Rdc=4.6m
.ends ExB_TypeL_744844470_47u
******
.subckt ExB_TypeL_744844471_470u 1 2 3 4
X1 1 2 3 4 ExB params:
+ dl3=0.000000513805
+ dc3=0.0000000000000333
+ dl4=0.000000001351
+ dc4=0.00000000000143
+ dr3=0.48
+ dr4=6380
+ dr5=1.88
+ dr6=166
+ ck=15.2pF
+ L1=3.00098919891953E-05
+ L2=0.000508
+ L3=0.0000018
+ L4=0.000018
+ L5=0.0000018
+ C1=2.72922309E-12
+ C2=0.00000000002754
+ Rs1=5000
+ Rs2=3610
+ Rs3=703
+ Rs4=78
+ Rs5=109
+ R2=0.11
+ Rdc=16m
.ends ExB_TypeL_744844471_470u
******
.subckt ExB 1 2 3 4 params:
+ dl3=0.0000001409405
+ dc3=0.0000000000000333
+ dl4=0.000000001351
+ dc4=0.00000000000143
+ dr3=0.48
+ dr4=2100
+ dr5=1.88
+ dr6=166
+ ck=8.4pF
+ L1=0.460098919891953E-05
+ L2=0.0000909908
+ L3=0.0000018
+ L4=0.000018
+ L5=0.0000018
+ C1=1.22922309E-12
+ C2=0.00000000002754
+ Rs1=590
+ Rs2=670
+ Rs3=703
+ Rs4=78
+ Rs5=109
+ R2=0.11
+ Rdc=6m
L5 N010 N009 {L3} 
R100 N010 N009 {Rs3}
C3 4 N500 {C1} 
R500 N500 N001 {R2}
L1 4 N011 {L1} 
R101 4 N011 {Rs1}
L3 N011 N010 {L2} 
R102 N011 N010 {Rs2}
L6 N014 N013 {L3} 
R103 N014 N013 {Rs3}
C4 3 N501 {C1} 
R501 N501 N012 {R2}
L2 3 N015 {L1} 
R104 3 N015 {Rs1}
L4 N015 N014 {L2} 
R105 N015 N014 {Rs2}
L8 N013 N012 {L4} 
R106 N013 N012 {Rs4}
L7 N009 N001 {L4} 
R107 N009 N001 {Rs4}
L9 N001 N006 {L5} 
R108 N001 N006 {Rs5} 
C108 N001 N006 {C2}
L10 N012 N020 {L5} 
R109 N012 N020 {Rs5} 
C109 N012 N020 {C2}
R1 N002 1 {Rdc}
R2 N004 N002 {dR4}
C1 N003 N002 {dC3}
L17 N007 N002 {dL3}
L18 N016 N017 {dL3}
C2 N007 N017 {ck}
R1000 N007 N017 100g
R3 N004 N003 {dR3}
R4 N018 N021 {dR3}
C9 N021 N016 {dC3}
R5 N018 N016 {dR4}
L19 N004 N007 {dL3}
L20 N017 N018 {dL3}
R6 N016 2 {Rdc}
R8 N006 N004 {dR6}
C10 N005 N004 {dC4}
L13 N008 N004 {dL4}
L14 N018 N019 {dL4}
C11 N008 N019 {ck}
R9 N006 N005 {dR5}
R10 N020 N022 {dR5}
C12 N022 N018 {dC4}
R11 N020 N018 {dR6}
L15 N006 N008 {dL4}
L16 N019 N020 {dL4}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7 L17 L18 L19 L20 0.9999
K6 L13 L14 L15 L16 0.9999
.ends ExB
******