**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Flyback Transformer for LT3751
* Matchcode:              WE-FB 3751
* Library Type:           Pspice
* Version:                rev23a
* Created/modified by:    Roberta       
* Date and Time:          2023-12-13
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2023 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt	FB3751_EE35_750310355		4  8  1  13  3	
.param RxLkg=54.74ohm				
.param Leakage=0.065uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	4b	2.435uH	
Rser1	4b	8	2.5mohm	
Lsec1	1	1a	62.5uH	
Rser5	1a	13	60mohm	
Lsec2	13	13a	62.5uH	
Rser6	13a	3	60mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=1410pf				
.param Rdmp1=2105.39ohm				
Cpri1	4	8a	{Cprm1}	
Rser13	8a	8	10mohm	
Rdmp1	4	8	{Rdmp1}	
Rg3	4	0	20meg	
Rg7	8	0	20meg	
Rg11	1	0	20meg	
Rg19	13	0	20meg	
Rg20	3	0	20meg		
.ends		
.subckt	FB3751_EE35_750310349		5  8  1  13  3	
.param RxLkg=48.82ohm				
.param Leakage=0.09uh				
Rlkg	5	5a	{RxLkg}	
L_Lkg	5	5a	{Leakage}	
Lpri1	5a	5b	4.91uH	
Rser1	5b	8	6mohm	
Lsec1	1	1a	125uH	
Rser5	1a	13	60mohm	
Lsec2	13	13a	125uH	
Rser6	13a	3	60mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=1699.3pf				
.param Rdmp1=2712.2ohm				
Cpri1	5	8a	{Cprm1}	
Rser13	8a	8	10mohm	
Rdmp1	5	8	{Rdmp1}	
Rg3	5	0	20meg	
Rg7	8	0	20meg	
Rg11	1	0	20meg	
Rg19	13	0	20meg	
Rg20	3	0	20meg		
.ends				
.subckt	FB3751_EFD20_750032052		6  4  1  10	
.param RxLkg=1377.84ohm				
.param Leakage=0.27uh				
Rlkg	6	6a	{RxLkg}	
L_Lkg	6	6a	{Leakage}	
Lpri1	6a	6b	9.73uH	
Rser1	6b	4	15mohm	
Lsec1	1	1a	1000uH	
Rser5	1a	10	916mohm	
K Lpri1    Lsec1        1				
.param Cprm1=9.6pf				
.param Rdmp1=51031.03ohm				
Cpri1	6	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	6	4	{Rdmp1}	
Rg3	6	0	20meg	
Rg7	4	0	20meg	
Rg11	1	0	20meg	
Rg19	10	0	20meg	
.ends			
.subckt	FB3751_EFD20_750032051		7  4  6  5  1  10	
.param RxLkg=279.51ohm				
.param Leakage=0.05uh				
Rlkg	7	7a	{RxLkg/2}	
L_Lkg	7	7a	{Leakage/2}	
Rlkg2	6	6a	{RxLkg/2}	
L_Lkg2	6	6a	{Leakage/2}	
Lpri1	7a	7b	9.975uH	
Rser1	7b	4	10mohm	
Lpri2	6a	6b	9.975uH	
Rser2	6b	5	20mohm	
Lsec1	1	1a	1000uH	
Rser5	1a	10	560mohm	
K Lpri1 Lpri2   Lsec1        1				
.param Cprm1=4pf				
.param Cprm2=4pf				
.param Rdmp1=55901.69ohm				
.param Rdmp2=55901.69ohm				
Cpri1	7	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Cpri2	6	5a	{Cprm2}	
Rser14	5a	5	10mohm	
Rdmp1	7	4	{Rdmp1}	
Rdmp2	6	5	{Rdmp2}	
Rg3	7	0	20meg	
Rg4	6	0	20meg	
Rg7	4	0	20meg	
Rg8	5	0	20meg	
Rg11	1	0	20meg	
Rg19	10	0	20meg	
.ends