**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Leaded Toroidal Line Choke
* Matchcode:              WE-FI
* Library Type:           Pspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          7/12/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt FI_7447010_470u 1 2
Rp 1 2 6380
Cp 1 2 25.83701p
Rs 1 N3 0.225
L1 N3 2 429.82054u
.ends FI_7447010_470u
*******
.subckt FI_7447011_130u 1 2
Rp 1 2 3503
Cp 1 2 10.46374p
Rs 1 N3 0.085
L1 N3 2 126.32998u
.ends FI_7447011_130u
*******
.subckt FI_7447012_110u 1 2
Rp 1 2 2875.1
Cp 1 2 8.64772p
Rs 1 N3 0.07
L1 N3 2 105.78854u
.ends FI_7447012_110u
*******
.subckt FI_7447013_90u 1 2
Rp 1 2 2444
Cp 1 2 8.04906p
Rs 1 N3 0.04
L1 N3 2 85.93402u
.ends FI_7447013_90u
*******
.subckt FI_7447014_58u 1 2
Rp 1 2 2639
Cp 1 2 2.692p
Rs 1 N3 0.055
L1 N3 2 58u
.ends FI_7447014_58u
*******
.subckt FI_7447015_35u 1 2
Rp 1 2 1433
Cp 1 2 3.374p
Rs 1 N3 0.025
L1 N3 2 35u
.ends FI_7447015_35u
*******
.subckt FI_7447016_29u 1 2
Rp 1 2 1066.0093
Cp 1 2 2.36696666666667p
Rs 1 N3 0.015
L1 N3 2 26.7791111111111u
.ends FI_7447016_29u
*******
.subckt FI_7447017_22u 1 2
Rp 1 2 1068
Cp 1 2 2.607p
Rs 1 N3 0.015
L1 N3 2 22u
.ends FI_7447017_22u
*******
.subckt FI_7447018_150u 1 2
Rp 1 2 4206.4
Cp 1 2 17.24331p
Rs 1 N3 0.1
L1 N3 2 141.8432u
.ends FI_7447018_150u
*******
.subckt FI_7447019_700u 1 2
Rp 1 2 8675.6
Cp 1 2 48.28958p
Rs 1 N3 0.12
L1 N3 2 659.42899u
.ends FI_7447019_700u
*******
.subckt FI_7447020_220u 1 2
Rp 1 2 6476
Cp 1 2 15.549p
Rs 1 N3 0.16
L1 N3 2 220u
.ends FI_7447020_220u
*******
.subckt FI_7447021_100u 1 2
Rp 1 2 3267.2
Cp 1 2 10.22916p
Rs 1 N3 0.08
L1 N3 2 90.77767u
.ends FI_7447021_100u
*******
.subckt FI_7447022_68u 1 2
Rp 1 2 2647.3
Cp 1 2 4.72983p
Rs 1 N3 0.08
L1 N3 2 64.87846u
.ends FI_7447022_68u
*******
.subckt FI_7447023_60u 1 2
Rp 1 2 2439.3
Cp 1 2 7.23942p
Rs 1 N3 0.04
L1 N3 2 56.39882u
.ends FI_7447023_60u
*******
.subckt FI_7447024_30u 1 2
Rp 1 2 1901
Cp 1 2 2.18p
Rs 1 N3 0.04
L1 N3 2 30u
.ends FI_7447024_30u
*******
.subckt FI_7447025_20u 1 2
Rp 1 2 1317
Cp 1 2 2.58p
Rs 1 N3 0.02
L1 N3 2 20u
.ends FI_7447025_20u
*******
.subckt FI_7447026_10u 1 2
Rp 1 2 827
Cp 1 2 2.149p
Rs 1 N3 0.01
L1 N3 2 10u
.ends FI_7447026_10u
*******
.subckt FI_7447027_20u 1 2
Rp 1 2 1266.6
Cp 1 2 2.93261p
Rs 1 N3 0.015
L1 N3 2 17.68577u
.ends FI_7447027_20u
*******
.subckt FI_7447028_150u 1 2
Rp 1 2 4143
Cp 1 2 11.6558333333333p
Rs 1 N3 0.13
L1 N3 2 128.996655555556u
.ends FI_7447028_150u
*******
.subckt FI_74470291_220u 1 2
Rp 1 2 6509
Cp 1 2 20.261p
Rs 1 N3 0.15
L1 N3 2 220u
.ends FI_74470291_220u
*******
.subckt FI_74470292_130u 1 2
Rp 1 2 3548
Cp 1 2 11.942p
Rs 1 N3 0.09
L1 N3 2 130u
.ends FI_74470292_130u
*******
.subckt FI_7447030_36u 1 2
Rp 1 2 1442
Cp 1 2 1.866p
Rs 1 N3 0.4
L1 N3 2 36u
.ends FI_7447030_36u
*******
.subckt FI_7447031_140u 1 2
Rp 1 2 3485.7
Cp 1 2 11.2823333333333p
Rs 1 N3 0.11
L1 N3 2 133.040855555556u
.ends FI_7447031_140u
*******
.subckt FI_7447032_110u 1 2
Rp 1 2 3909.8
Cp 1 2 4.86014444444444p
Rs 1 N3 0.23
L1 N3 2 119.168433333333u
.ends FI_7447032_110u
*******
.subckt FI_7447033_68u 1 2
Rp 1 2 2201.8
Cp 1 2 8.24237777777778p
Rs 1 N3 0.055
L1 N3 2 65.2747666666667u
.ends FI_7447033_68u
*******
.subckt FI_7447034_43u 1 2
Rp 1 2 2166.7
Cp 1 2 3.13184444444444p
Rs 1 N3 0.06
L1 N3 2 43.9818555555555u
.ends FI_7447034_43u
*******
.subckt FI_7447035_15u 1 2
Rp 1 2 1344
Cp 1 2 1.749p
Rs 1 N3 0.025
L1 N3 2 15u
.ends FI_7447035_15u
*******
.subckt FI_7447036_220u 1 2
Rp 1 2 4941.8
Cp 1 2 15.49394p
Rs 1 N3 0.22
L1 N3 2 210.17384u
.ends FI_7447036_220u
*******
.subckt FI_7447037_360u 1 2
Rp 1 2 8797.4
Cp 1 2 19.9834p
Rs 1 N3 0.45
L1 N3 2 339.371544444444u
.ends FI_7447037_360u
*******
.subckt FI_7447040_240u 1 2
Rp 1 2 5368.6
Cp 1 2 16.3518777777778p
Rs 1 N3 0.38
L1 N3 2 232.861722222222u
.ends FI_7447040_240u
*******
.subckt FI_7447041_68u 1 2
Rp 1 2 2441.5
Cp 1 2 3.90281p
Rs 1 N3 0.1
L1 N3 2 61.55477u
.ends FI_7447041_68u
*******
.subckt FI_7447042_56u 1 2
Rp 1 2 2708
Cp 1 2 7.132p
Rs 1 N3 0.18
L1 N3 2 56u
.ends FI_7447042_56u
*******
.subckt FI_7447043_24u 1 2
Rp 1 2 1718
Cp 1 2 3.875p
Rs 1 N3 0.045
L1 N3 2 24u
.ends FI_7447043_24u
*******
.subckt FI_7447044_22u 1 2
Rp 1 2 1368
Cp 1 2 4.96p
Rs 1 N3 0.03
L1 N3 2 22u
.ends FI_7447044_22u
*******
.subckt FI_7447045_8u2 1 2
Rp 1 2 834
Cp 1 2 1.336p
Rs 1 N3 0.02
L1 N3 2 8.2u
.ends FI_7447045_8u2
*******
.subckt FI_7447050_140u 1 2
Rp 1 2 4477.8
Cp 1 2 9.9014p
Rs 1 N3 0.26
L1 N3 2 141.6666u
.ends FI_7447050_140u
*******
.subckt FI_7447051_37u 1 2
Rp 1 2 2189
Cp 1 2 4.487p
Rs 1 N3 0.12
L1 N3 2 37u
.ends FI_7447051_37u
*******
.subckt FI_7447052_32u 1 2
Rp 1 2 2075
Cp 1 2 5.472p
Rs 1 N3 0.045
L1 N3 2 32u
.ends FI_7447052_32u
*******
.subckt FI_7447053_12u 1 2
Rp 1 2 840
Cp 1 2 1.33p
Rs 1 N3 0.03
L1 N3 2 12u
.ends FI_7447053_12u
*******
.subckt FI_7447054_10u 1 2
Rp 1 2 552
Cp 1 2 3.622p
Rs 1 N3 0.02
L1 N3 2 10u
.ends FI_7447054_10u
*******
.subckt FI_7447055_150u 1 2
Rp 1 2 3215.9
Cp 1 2 16.2668p
Rs 1 N3 0.042
L1 N3 2 140.38428u
.ends FI_7447055_150u
*******
.subckt FI_7447060_300u 1 2
Rp 1 2 7247.6
Cp 1 2 23.73557p
Rs 1 N3 0.15
L1 N3 2 292.19707u
.ends FI_7447060_300u
*******
.subckt FI_7447065_330u 1 2
Rp 1 2 5652.2
Cp 1 2 38.1927p
Rs 1 N3 0.085
L1 N3 2 308.58805u
.ends FI_7447065_330u
*******
.subckt FI_7447070_100u 1 2
Rp 1 2 2743
Cp 1 2 18.895p
Rs 1 N3 0.035
L1 N3 2 100u
.ends FI_7447070_100u
*******
.subckt FI_7447071_470u 1 2
Rp 1 2 9050
Cp 1 2 55.774p
Rs 1 N3 0.11
L1 N3 2 470u
.ends FI_7447071_470u
*******
.subckt FI_7447075_860u 1 2
Rp 1 2 14323.3333333333
Cp 1 2 70.5701604938271p
Rs 1 N3 0.15
L1 N3 2 843.843234567901u
.ends FI_7447075_860u
*******
.subckt FI_7447076_150u 1 2
Rp 1 2 3807.8
Cp 1 2 14.14006p
Rs 1 N3 0.045
L1 N3 2 139.54711u
.ends FI_7447076_150u
*******
